US09102688B2
General Procedure 15: 2-Chloro-8-nitroquinoline (Intermediate 24)
Conc. H2SO4 was added slowly to 2-chloroquinoline (1.0 g, 6.13 mmol), followed by portionwise addition of potassium nitrate (800 mg, 7.97 mmol) at 0° C. The mixture was allowed to warm to room temperature overnight. After completion of the reaction (monitored by TLC and HPLCMS), the solution was poured slowly over ice, and the precipitate was extracted with EtOAc. The organic phase was washed with brine and concentrated in vacuo. The crude residue was purified by column chromatography with n-hexane/EtOAC (17:3) as the eluent to give the title compound (450 mg, 38%).

reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | 2-chloroquinoline | 6.13 mmol, 1.0 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | potassium nitrate | 7.97 mmol, 800 mg | [N+](=O)([O-])[O-].[K+]
product | 2-Chloro-8-nitroquinoline | 450 mg, 38% | ClC1=NC2=C(C=CC=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
